US05250547
A solution of 6-nitro-2,2,3-trimethyl-4-hydroxy-3,4-dihydro-2H-1-benzopyran (31.1 g, 0.131 mol) and p-toluenesulfonic acid (2.5 g, 0.013 mol) in toluene (875 ml) was refluxed for 18 hours, removing water with a Dean and Stark water separator. The cooled solution was washed with aqueous sodium bicarbonate solution and the organic phase separated. Solvent was removed under reduced pressure to give 30 g of 6-nitro-2,2,3-trimethyl-2H-1-benzopyran as an oil, 1H NMR (CDCl3): δ 1.45 (s, 6H) , 1.9 (s, 3H) , 6.15 (s, 1H), 6.8 (d, 1H), 7.8 (s, 1H), 8.0 (d,1H).

reactant | 6-nitro-2,2,3-trimethyl-4-hydroxy-3,4-dihydro-2H-1-benzopyran | 0.131 mol, 31.1 g | [N+](=O)([O-])C=1C=CC2=C(C(C(C(O2)(C)C)C)O)C1 | C12H15NO4
reactant | p-toluenesulfonic acid | 0.013 mol, 2.5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 875 ml | C1(=CC=CC=C1)C | C7H8
product | 6-nitro-2,2,3-trimethyl-2H-1-benzopyran | 30 g | [N+](=O)([O-])C=1C=CC2=C(C=C(C(O2)(C)C)C)C1 | C12H13NO3
